US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 6-chloropyridine-3-carbonyl chloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-chloronicotinamide as an off white crystalline solid, m.p. 144.0-148.0° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.77 (dd, J=2.5, 0.6 Hz, 1H), 8.73 (t, J=5.6 Hz, 1H), 8.22 (s, 1H), 8.16 (dd, J=8.3, 2.5 Hz, 1H), 8.03 (m, 1H), 7.63 (d, J=0.5 Hz, 1H), 7.60 (d, J=0.5 Hz, 1H), 7.45-7.40 (m, 1H), 7.23-7.18 (m, 1H), 6.61 (broad s, 2H), 4.63 (t, J=6.9 Hz, 2H), 3.30 (m, 2H), 1.92 (m, 2H), 1.58 (m, 2H). MS (EI) m/e 394.1298 (394.1309 calcd for C20Hl9N6OCl).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 6-chloropyridine-3-carbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-chloronicotinamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CN=C(C=C2)Cl)=O | C20H19ClN6O
